US07858621B2
N-(3-Fluoro-4-methanesulfonylamino-benzyl)-3-(2-methoxy-6-trifluoromethyl-pyridin-3-yl)-acrylamide
3-(2-Chloro-6-trifluoromethyl-pyridin-3-yl)-N-(3-fluoro-4-methane sulfonylamino-benzyl)-acrylamide (40 mg, 0.088 mmol) was reacted with 30% NaOCH3 in CH3OH to give the title compound (39 mg, 98%).

reactant | 3-(2-Chloro-6-trifluoromethyl-pyridin-3-yl)-N-(3-fluoro-4-methane sulfonylamino-benzyl)-acrylamide | 0.088 mmol, 40 mg | ClC1=NC(=CC=C1C=CC(=O)NCC1=CC(=C(C=C1)NS(=O)(=O)C)F)C(F)(F)F | C17H14ClF4N3O3S
reactant | NaOCH3 | O([Na])C
solvent | CH3OH | CO | CH4O
product | N-(3-Fluoro-4-methanesulfonylamino-benzyl)-3-(2-methoxy-6-trifluoromethyl-pyridin-3-yl)-acrylamide | 39 mg, 98% | FC=1C=C(CNC(C=CC=2C(=NC(=CC2)C(F)(F)F)OC)=O)C=CC1NS(=O)(=O)C | C18H17F4N3O4S
